US06506747B1
Synthesis of N-{4-[3,5-bis(Trifluoromethyl)pyrazol-1-yl]phenyl}-2-methylbenzamide (Method B).
A mixture of 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole (0.10 g, 0.34 mmol), o-toluoyl chloride (0.062 mL, 0.43 mmol), and triethylamine (0.06 mL, 0.43 mmol) in methylene chloride (7 mL) was stirred under argon for three days. The reaction mixture was diluted with methylene chloride, washed with 1N hydrochloric acid (2×50 mL), brine (2×40 mL), dried (magnesium sulfate) and concentrated to give an off-white solid. Recrystallization from methylene chloride/hexanes gave the above-named compound (0.065 g). m.p. 175° C. NMR (CDCl3, 400 MHz): δ 7.83 (d, 2H), 7.64 (br s, 1H), 7.53 (m, 3H), 7.43 (m, 1H), 7.31 (m, 2H), 7.10 (s, 1H), 2.56 (s, 3H).

reactant | 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | 0.34 mmol, 0.10 g | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
reactant | o-toluoyl chloride | 0.43 mmol, 0.062 mL | C=1(C(=CC=CC1)C(=O)Cl)C | C8H7ClO
reactant | triethylamine | 0.43 mmol, 0.06 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 7 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[3,5-bis(Trifluoromethyl)pyrazol-1-yl]phenyl}-2-methylbenzamide | 0.065 g | FC(C1=NN(C(=C1)C(F)(F)F)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O)(F)F | C19H13F6N3O
